US08937091B2
Acryloyldiphenylmethane 8269
Diphenylmethane (168 mg), acryloyl chloride (200 mg), and aluminium chloride (280 mg) were reacted in dichloromethane (2 mL) at from −40° C. to room temperature for 2 hours. The resultant was treated in the same manner as described in Example 1 to obtain the title compound (190 mg).

reactant | Diphenylmethane | 168 mg | C1(=CC=CC=C1)CC1=CC=CC=C1 | C13H12
reactant | acryloyl chloride | 200 mg | C(C=C)(=O)Cl | C3H3ClO
reactant | aluminium chloride | 280 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | Acryloyldiphenylmethane | 190 mg | C(C=C)(=O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C16H14O
